US04025630
1-[4-(morpholino)butyryloxy]-3-(phenyl-1-methylbutyl)-6,6,9-trimethyl-6a,7,8,10a-tetrahydrodibenzo[b,d]pyran hydrochloride
0.7 g. (2.33 mmoles) of 1-Hydroxy-3-(phenyl- 1-methylbutyl)-6,6,9-trimethyl-6a,7,8,10a-tetrahydrodibenzo [b,d]pyran, prepared according to the method of Example 48, 0.48 g. (2.28 mmoles) of γ-morpholinobutyric acid hydrochloride (Cruichshank and Sheehan, J. Am. Chem. Soc. 83, 2891 (1961), m.p. 180°-182° ) and 0.48 g. (2.35 mmoles) of dicyclohexylcarbodiimide (Aldrich) are combined with 35 ml. of methylene chloride and stirred at room temperature for a total of 40 hours. The insoluble by-product of dicyclohexylurea is removed using a rotary evaporator. The resulting residue is dissolved in about 20 ml. of benzene and a small amount of insoluble material is removed by filtration. The benzene is evaporated and the residue dried in vacuo to give 0.7 g. of material. Crystallization from benzene/pet ether yields the crystalline product.

reactant | 1-Hydroxy-3-(phenyl- 1-methylbutyl)-6,6,9-trimethyl-6a,7,8,10a-tetrahydrodibenzo [b,d]pyran | 2.33 mmoles | OC1=CC(=CC=2OC(C3C(C21)C=C(CC3)C)(C)C)C(CCC)(C)C3=CC=CC=C3 | C27H34O2
reactant | γ-morpholinobutyric acid hydrochloride | 2.28 mmoles | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 2.35 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[4-(morpholino)butyryloxy]-3-(phenyl-1-methylbutyl)-6,6,9-trimethyl-6a,7,8,10a-tetrahydrodibenzo[b,d]pyran hydrochloride | Cl.O1CCN(CC1)CCCC(=O)OC1=CC(=CC=2OC(C3C(C21)C=C(CC3)C)(C)C)C(CCC)(C)C3=CC=CC=C3 | InChI=1S/C35H47NO4.ClH/c1-6-16-35(5,26-11-8-7-9-12-26)27-23-30(39-32(37)13-10-17-36-18-20-38-21-19-36)33-28-22-25(2)14-15-29(28)34(3,4)40-31(33)24-27;/h7-9,11-12,22-24,28-29H,6,10,13-21H2,1-5H3;1H
